data/oMe_Silver.jsonl
{"reaction_id": "NR-240_1-c1ccc(OC)cc1_2-C#N_3-CC_4-C_5-C(=O)C","level": "medium","name": "Stevens Rearrangement","reactants_smiles": ["c1ccc(OC)cc1C(=O)C(C#N)[N+](CC)(C)C(=O)C","[Li]N(C(C)C)C(C)C"],"products_smiles": ["c1ccc(OC)cc1C(=O)C(C#N)(C(=O)C)N(CC)(C)"],"conditions": "","mechanism_step_nums": 2,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1ccc(OC)cc1C([O-])=C(C#N)[N+](CC)(C)C(=O)C","step_weight": 0,"rationale": "LDA selectively deprotonates the α-carbon due to enhanced acidity from carbonyl resonance and the inductive electron-withdrawing effect of the positively charged nitrogen."},{"step": 2,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "c1ccc(OC)cc1C(=O)C(C#N)(C(=O)C)N(CC)(C)","step_weight": 0,"rationale": "The nitrogen ylide rearranges via a [1,2]-shift because migration relieves charge separation and forms a stable tertiary amine, favored by the ability of the migrating group to stabilize developing negative charge."}],"description": "A strong, non-nucleophilic base deprotonates the acidic α-carbon between the carbonyl and quaternary ammonium, forming a nitrogen ylide stabilized by resonance with the carbonyl. This ylide undergoes a [1,2]-alkyl shift, yielding a more stable tertiary amine product."}
{"reaction_id": "NR-146_1-c2ccc(OC)cc2_2-c2ccc(N(C)C)cc2_3-C","name": "Mitsunobu Reaction","level": "medium","reactants_smiles": ["[C@@H](O)(c2ccc(OC)cc2)(c2ccc(N(C)C)cc2)","O=C(O)C","c1ccccc1P(c2ccccc2)c3ccccc3","CCOC(=O)N=NC(=O)OCC"],"products_smiles": ["[C@H](OC(=O)C)(c2ccc(OC)cc2)(c2ccc(N(C)C)cc2)"],"conditions": "Ph3P, CCOC(=O)N=NC(=O)OCC","mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "c1ccccc1[P+](c2ccccc2)(c3ccccc3)N([N-]C(=O)OCC)C(=O)OCC","rationale": "Triphenylphosphine attacks the electrophilic azo carbonyl due to its strong nucleophilicity, forming a phosphonium intermediate stabilized by resonance with adjacent carbonyl groups."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1ccccc1[P+](c2ccccc2)(c3ccccc3)N(NC(=O)OCC)C(=O)OCC.[O-]C(=O)C","rationale": "The acidic proton of C–COOH is abstracted by the basic intermediate, driven by the stability of the resulting carboxylate anion and the favorable formation of a neutral phosphonium species."},{"step": 3,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "[C@@H](O[P+](c1ccccc1)(c2ccccc2)c3ccccc3)(c2ccc(OC)cc2)(c2ccc(N(C)C)cc2).[O-]C(=O)C","rationale": "The alcohol oxygen attacks the electrophilic phosphonium center, forming an oxyphosphonium intermediate; this activates the adjacent carbon for nucleophilic substitution by making it a better leaving group."},{"step": 4,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "[C@H](OC(=O)C)(c2ccc(OC)cc2)(c2ccc(N(C)C)cc2)","rationale": "The carboxylate anion attacks the activated carbon in an SN2 fashion, favored by the excellent leaving ability of triphenylphosphine oxide and the reaction’s stereospecific inversion requirement."}],"description": "In the Mitsunobu reaction, triphenylphosphine activates the azo reagent to form a reactive intermediate, which deprotonates the acid to generate a nucleophilic anion. This anion then displaces the alcohol via inversion, yielding the ester product under mild, stereospecific conditions."}
